US07462624B2
Step C: 6-Amino-5-nitroso-1-pentylpyrimidine-2,4(1H,3H)-dione
To a stirring mixture of 6-amino-1-pentylpyrimidine-2,4(1H,3H)-dione (4.0 g, 0.020 mol) and acetic acid (20 mL, 0.4 mol) in water (20 mL) was slowly added sodium nitrite (1.5 g, 0.022 mol). Stirring was continued at room temperature for 2 h at which time the reaction mixture became pink and precipitate formed. The reaction mixture was concentrated under reduced pressure. The resulting residue was dissolved in aqueous NaOH solution and extracted with methylene chloride to remove byproducts. The aqueous solution was neutralized with HCl and concentrated. The residue was treated with methanol and filtered. The filtrate was concentrated to give the desired product as pink solid. LCMS calculated for C9H15N4O3 (M+H): 227.1; found: 227.1 (M+H), 249.1 (M+Na).

reactant | 6-amino-1-pentylpyrimidine-2,4(1H,3H)-dione | 0.020 mol, 4.0 g | NC1=CC(NC(N1CCCCC)=O)=O | C9H15N3O2
reactant | acetic acid | 0.4 mol, 20 mL | C(C)(=O)O | C2H4O2
reactant | sodium nitrite | 0.022 mol, 1.5 g | N(=O)[O-].[Na+]
solvent | water | 20 mL | O | H2O
product | 6-Amino-5-nitroso-1-pentylpyrimidine-2,4(1H,3H)-dione | NC1=C(C(NC(N1CCCCC)=O)=O)N=O | C9H14N4O3
